### PR TITLE
feat(MagicFunction/b): Some API

### PR DESCRIPTION
**Pull request by thefundamentaltheor3m**
In this PR we develop some API for the $-1$-eigenfunction $b$. We also make some improvements/optimisations to previously written code about the `Ψ` functions and their slash action relations.

### CODE REVIEW

File: SpherePacking/MagicFunction/IntegralParametrisations.lean [hunk 1]
```diff
@@ -107,24 +108,91 @@ end UpperHalfPlane
...
+  exact ((S * T) • z).2
+
+lemma neg_inv_one_add_eq_ST (z : ℍ) :
+    ⟨-1 / ((z : ℂ) + 1), neg_inv_one_add_mem z⟩ = (S * T) • z := by
+  apply UpperHalfPlane.ext
+  rw [← neg_inv_one_add_eq_ST_coe]
+  norm_cast
+
+lemma neg_inv_eq_S_coe (z : ℍ) :
+    -1 / (z) = UpperHalfPlane.coe (S • z) := by
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/IntegralParametrisations.lean]:
```suggestion
    -1 / z = UpperHalfPlane.coe (S • z) := by
```
maybe?

File: SpherePacking/MagicFunction/b/Basic.lean [hunk 2]
```diff
@@ -10,36 +10,115 @@ import SpherePacking.MagicFunction.IntegralParametrisations
...
+
+namespace MagicFunction.b.ComplexIntegrands
+
+def Ψ₁' : ℂ → ℂ := fun z ↦ (ψT' z) * cexp (π * I * r * z)
+
+def Ψ₂' : ℂ → ℂ := fun z ↦ (ψT' z) * cexp (π * I * r * z)
+
+def Ψ₃' : ℂ → ℂ := fun z ↦ (ψT' z) * cexp (π * I * r * z)
+
+def Ψ₄' : ℂ → ℂ := fun z ↦ (ψT' z) * cexp (π * I * r * z)
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/b/Basic.lean:27]: These four are all the same, right (but the ones below without `'` are different)? Just for check.

File: SpherePacking/MagicFunction/IntegralParametrisations.lean (hunk 1 above)
Comment (thefundamentaltheor3m) [reply SpherePacking/MagicFunction/IntegralParametrisations.lean]: Agreed - good catch

File: SpherePacking/MagicFunction/b/Basic.lean (hunk 2 above)
Comment (thefundamentaltheor3m) [reply SpherePacking/MagicFunction/b/Basic.lean:27]: Yes - these ones are the same. The reason for the repetition is that each is the integrand for a different integral, and if someday we decide to rewrite the integrands in a different form (because there are many equivalent forms) then it would be a lot easier if we have separate functions defined for each of them.

The ones without the `'` are these ones composed with parametrisations. So the ones with `'` take in a real input, whereas these ones take in a complex input.
